US08207147B2
Preparation 13: 4-Carbamoylmethoxypiperidine-1-carboxylic acid tert-butyl ester
A solution of 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester (Preparation 1, 14.13 g, 54.7 mmol) and triethylamine (7.68 ml, 65.6 mmol) in anhydrous THF (250 ml) was cooled to 0° C. and isobutylchloroformate (8.51 ml, 65.6 mmol) introduced dropwise. After stirring at 0° C. for 30 min, the reaction mixture was cooled to −20° C. and added rapidly via cannula to a solution of 0.7M ammonia in anhydrous CH2Cl2 (250 ml, 180 mmol) at −70° C. The reaction was allowed to warm to rt and stirred for 1 h. The mixture was diluted with CH2Cl2 (250 ml) and washed with saturated aqueous NaHCO3 (200 ml), 0.5M HCl (200 ml) and brine (200 ml) then dried (MgSO4). The solvent was evaporated and the residue purified by flash chromatography IH-THF 3:7) to afford the title compound: δH (CDCl3) 1.49 (9H, s), 1.53-1.60 (2H, m), 1.85-1.92 (2H, m), 3.11 (2H, m), 3.58 (1H, m), 3.76-3.83 (2H, m), 3.98 (2H, s), 6.19 (1H, bs), 6.56 (1H, bs).

reactant | 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester | 54.7 mmol, 14.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)O | C12H21NO5
reactant | triethylamine | 65.6 mmol, 7.68 ml | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 65.6 mmol, 8.51 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | 0.7M | N | H3N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 180 mmol, 250 ml | C(Cl)Cl | CH2Cl2
product | 4-Carbamoylmethoxypiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(N)=O | C12H22N2O4
